US08629157B2
Step 1: Synthesis of 3-bromo-propionic acid tert-butyl ester
3-Hydroxy-propionic acid tert-butyl ester is dissolved in acetonitrile and carbon tetrabromide and triphenylphosphine is added. The mixture is stirred at room temperature overnight. After this time the mixture is concentrated in vacuo. The gummy solid is triturated with hexanes and the liquid decanted, passed through pad of silica to remove any triphenylphosphine oxide, and concentrated in vacuo. 1H NMR (400 MHz, CHLOROFORM-d) ppm 1.3 (9H, s), 2.06-2.27 (2H, m), 4.07-4.25 (2H, m).

reactant | 3-Hydroxy-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCO)=O | C7H14O3
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-bromo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCBr)=O | C7H13BrO2
